US07812028B2
e) 5-(4-Chloro-phenyl)-N—((R)-1-hydroxymethyl-3-methyl-butyl)-6-(2-propionylamino-ethoxy)-nicotinamide
N-{2-[3-(4-Chloro-phenyl)-5-((R)-4-isobutyl-2,2-dimethyl-oxazolidine-3-carbonyl)-pyridin-2-yloxy]-ethyl}-propionamide (82 mg, 0.16 mmol) was dissolved in methanol (0.35 mL). To the solution was added camphorsulfonic acid (1.6 mg, 0.007 mmol) and the reaction mixture was stirred for 1 h at RT. The mixture was poured into water, sodiumbicarbonate was added and the mixture extracted with ethyl acetate. Organic phases were pooled, the solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (dichloromethane/methanol gradient) to yield 55 mg of the title compound as a white solid, MS (ISP) 448.3 (M+H)+.

reactant | N-{2-[3-(4-Chloro-phenyl)-5-((R)-4-isobutyl-2,2-dimethyl-oxazolidine-3-carbonyl)-pyridin-2-yloxy]-ethyl}-propionamide | 0.16 mmol, 82 mg | ClC1=CC=C(C=C1)C=1C(=NC=C(C1)C(=O)N1C(OC[C@H]1CC(C)C)(C)C)OCCNC(CC)=O | C26H34ClN3O4
reactant | camphorsulfonic acid | 0.007 mmol, 1.6 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | water | O | H2O
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.35 mL | CO | CH4O
product | 5-(4-Chloro-phenyl)-N—((R)-1-hydroxymethyl-3-methyl-butyl)-6-(2-propionylamino-ethoxy)-nicotinamide | 55 mg | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H](CC(C)C)CO)C1)OCCNC(CC)=O | C23H30ClN3O4
